US07425568B2
3-[6-(5-Nitropyridin-2-yloxy)chroman-2-yl]phenol was prepared as described for 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine in Example 1 (b) starting from 2-(3-hydroxyphenyl)chroman-6-ol. 1H NMR (400 MHz, d6-DMSO) δ: 9.44 (s, 1H), 9.04 (d, 1H, J 2.8 Hz), 8.60 (dd, 1H, J 2.8, 9.1 Hz), 7.21-7.16 (m, 2H), 7.00-6.94 (m, 2H), 6.91-6.84 (m, 3H), 6.73-6.70 (m, 1H), 5.06 (dd, 1H, J 2.1, 9.9 Hz), 2.99-2.92 (m, 1H), 2.75-2.69 (m, 1H), 2.17-2.01 (m, 1H), 2.00-1.93 (m, 1H).

reactant | 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C20H16N2O4
reactant | 2-(3-hydroxyphenyl)chroman-6-ol | OC=1C=C(C=CC1)C1OC2=CC=C(C=C2CC1)O | C15H14O3
product | 3-[6-(5-Nitropyridin-2-yloxy)chroman-2-yl]phenol | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C2CCC(OC2=CC1)C=1C=C(C=CC1)O | C20H16N2O5
